US07655644B2
Tert-butyl 3-cyano-3-(3-fluoropyridin-2-yl)azetidine-1-carboxylate
To a stirred suspension of tert-butyl 3-cyanoazetidine-1-carboxylate (5 g; 27.43 mmol) and 2-chloro-3-fluoropyridine (5.05 g; 38.41 mmol) in toluene (100 ml) cooled in an acetone/ice bath under an atmosphere of N2, was added a solution of potassium bis(trimethylsilyl)amide (0.5M solution in toluene; 71.34 ml; 35.67 mmol) over 30 minutes keeping the internal temperature below −10° C. The reaction mixture was allowed to warm to ambient temperature, then stirred an additional 2 hours. The reaction was poured into brine (150 ml) and extracted with EtOAc (3×100 ml). The combined organic phase was washed with brine (100 ml), dried (MgSO4), filtered and evaporated to give a brown oil. The crude product was chromatographed on silica gel eluted with 5% EtOAc in DCM to give the desired product as colourless oil (2.67 g).

reactant | tert-butyl 3-cyanoazetidine-1-carboxylate | 27.43 mmol, 5 g | C(#N)C1CN(C1)C(=O)OC(C)(C)C | C9H14N2O2
reactant | 2-chloro-3-fluoropyridine | 38.41 mmol, 5.05 g | ClC1=NC=CC=C1F | C5H3ClFN
reactant | potassium bis(trimethylsilyl)amide | 35.67 mmol, 0.5M, 71.34 ml | C[Si](C)(C)[N-][Si](C)(C)C.[K+]
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
solvent | brine | 150 ml | [Cl-].[Na+].O
product | Tert-butyl 3-cyano-3-(3-fluoropyridin-2-yl)azetidine-1-carboxylate | 2.67 g | C(#N)C1(CN(C1)C(=O)OC(C)(C)C)C1=NC=CC=C1F | C14H16FN3O2
